US04251546
2-(5-chloro-2-hydroxyphenyl)-2-(5-fluoro-2-hydroxyphenyl)propane (m.p. 125° C.) was prepared from 2-(5-chloro-2-hydroxyphenyl)-2-(5-fluoro-2-methoxyphenyl)propane following the method described in Example 3 for the preparation of 2,2'-isopropylidene bis(4-fluorophenol).

reactant | 2-(5-chloro-2-hydroxyphenyl)-2-(5-fluoro-2-methoxyphenyl)propane | ClC=1C=CC(=C(C1)C(C)(C)C1=C(C=CC(=C1)F)OC)O | C16H16ClFO2
reactant | 2,2'-isopropylidene bis(4-fluorophenol) | C(C)(C)(C1=C(C=CC(=C1)F)O)C1=C(C=CC(=C1)F)O | C15H14F2O2
product | 2-(5-chloro-2-hydroxyphenyl)-2-(5-fluoro-2-hydroxyphenyl)propane | ClC=1C=CC(=C(C1)C(C)(C)C1=C(C=CC(=C1)F)O)O | C15H14ClFO2
